US05633381
A mixture of 20.0 g of 4-cyanobenzaldehyde, 30.5 g of cycloheptanone, and 200 mL of 85% phosphoric acid is heated for 1.5 h at 100° C. The mixture is cooled to room temperature, and filtered. The filtrate is poured into water (800 mL), and the precipitate is filtered, washed with water, and dried. The solid is purified by flash chromatography eluting with a mixture of ether:hexane, 1:2 to afford (4-cyanophenylmethylene)cycloheptanone.

reactant | 4-cyanobenzaldehyde | 20.0 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | cycloheptanone | 30.5 g | C1(CCCCCC1)=O | C7H12O
solvent | phosphoric acid | 200 mL | P(O)(O)(O)=O | H3O4P
product | (4-cyanophenylmethylene)cycloheptanone | C(#N)C1=CC=C(C=C1)C=C1C(CCCCC1)=O | C15H15NO
